US07495110B2
Stage 6: 1-(2-[(3,5-dimethoxyphenyl)amino]-1-{3-[methyl(2-pyridin-2-ylethyl)amino]propyl}-1H-benzimidazol-5-yl)-3-thien-2-ylpropan-1-one
Carbonyldiimidazole (10.5 mg, 1.3 eq) in solution in chloroform (0.2 ml) is added to a solution of 2-[(3,5-dimethoxyphenyl)amino]-1-{3-[methyl(2-pyridin-2-ylethyl)amino]propyl}-1H-benzimidazole-5-carboxylic acid (24 mg, 1 eq) in a mixture of dimethylformamide (0.2 ml) and tetrahydrofuran (0.4 ml). The mixture is stirred for 15 hours at approximately 20° C. then thiophene-2-ethylamine (13 mg, 2 eq) in solution in tetrahydrofuran (0.1 ml) is added. After stirring for 15 hours at approximately 20° C., aminomethyl polystyrene resin (2 eq), TBD-methyl polystyrene resin (2 eq) and methylisothiocyanate polystyrene resin (4 eq) are added to the mixture diluted in dichloromethane. After stirring for 6 hours at approximately 20° C., the mixture is filtered and the filtrate is concentrated under reduced pressure at 40° C. in order to produce the expected compound in the form of an oil (27 mg, 90% yield).

reactant | Carbonyldiimidazole | 10.5 mg, 1.3 eq | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-[(3,5-dimethoxyphenyl)amino]-1-{3-[methyl(2-pyridin-2-ylethyl)amino]propyl}-1H-benzimidazole-5-carboxylic acid | 24 mg, 1 eq | COC=1C=C(C=C(C1)OC)NC1=NC2=C(N1CCCN(CCC1=NC=CC=C1)C)C=CC(=C2)C(=O)O | C27H31N5O4
reactant | thiophene-2-ethylamine | 13 mg, 2 eq | S1C(=CC=C1)CCN | C6H9NS
reactant | aminomethyl polystyrene resin | 2 eq | N | H3N
reactant | methylisothiocyanate polystyrene | 4 eq | CN=C=S | C2H3NS
solvent | chloroform | 0.2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 0.4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.1 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(2-[(3,5-dimethoxyphenyl)amino]-1-{3-[methyl(2-pyridin-2-ylethyl)amino]propyl}-1H-benzimidazol-5-yl)-3-thien-2-ylpropan-1-one | COC=1C=C(C=C(C1)OC)NC1=NC2=C(N1CCCN(CCC1=NC=CC=C1)C)C=CC(=C2)C(CCC=2SC=CC2)=O | C33H37N5O3S
